US04414390
To a solution of aluminum chloride (80 g) and chloroacetyl chloride (72 g) in carbon disulfide (200 ml) was added portionwise in 20 minutes a suspension of 3,4-dihydrocarbostyril (14.7 g) in carbon disulfide (100 ml) while refluxing with stirring. After completion of addition, the mixture was refluxed with stirring for 2 hours. After cooling, the reaction mixture was poured into ice water, and crystals which precipitated were collected by filtration, washed with water and recrystallized from ethanol to give 20 g of 6-chloroacetyl-3,4-dihydrocarbostyril.

reactant | aluminum chloride | 80 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chloroacetyl chloride | 72 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 3,4-dihydrocarbostyril | 14.7 g | N1C(=O)CCC2=CC=CC=C12 | C9H9NO
solvent | carbon disulfide | 200 ml | C(=S)=S | CS2
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
product | 6-chloroacetyl-3,4-dihydrocarbostyril | 20 g | ClCC(=O)C=1C=C2CCC(NC2=CC1)=O | C11H10ClNO2
